US06734184B1
1-[2-(N-Formyl-N-hydroxyamino)-2-phenylethanesulfonyl]-4-(4-fluorophenyl)piperazine
To a solution of 1-[2-(hydroxyamino)-2-phenylethanesulfonyl]-4-(4-fluorophenyl)piperazine (338 mg, 0.89 mmol) in THF (5 ml) and formic acid (2 ml) was added a preformed mixture of formic acid (2 ml) and acetic anhydride (0.5 ml). The mixture was stirred at room temperature for one hour. The mixture was evaporated in vacuo and toluene (2×5 ml) was added and evaporated in vacuo. The residue was taken in CH2Cl2-methanol (6 ml, 9:1) and silica (1 g) was added. The mixture was stirred for 18 hours. The silica was filtered off and rinsed with CH2Cl2-methanol (9:1). The residue was purified on silica gel (eluant:CH2Cl2—MeOH 4%) to give the title compound as a light orange solid (220 mg, 61%).

reactant | 1-[2-(hydroxyamino)-2-phenylethanesulfonyl]-4-(4-fluorophenyl)piperazine | 0.89 mmol, 338 mg | ONC(CS(=O)(=O)N1CCN(CC1)C1=CC=C(C=C1)F)C1=CC=CC=C1 | C18H22FN3O3S
reactant | acetic anhydride | 0.5 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | formic acid | 2 ml | C(=O)O | CH2O2
solvent | formic acid | 2 ml | C(=O)O | CH2O2
product | 1-[2-(N-Formyl-N-hydroxyamino)-2-phenylethanesulfonyl]-4-(4-fluorophenyl)piperazine | 220 mg, 61% | C(=O)N(O)C(CS(=O)(=O)N1CCN(CC1)C1=CC=C(C=C1)F)C1=CC=CC=C1 | C19H22FN3O4S
